US05760032
Ethyl 2-(1-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-1,2,3,4-tetrazol-5-ylmethylcarbamoyl)indole-1-acetate is hydrolyzed using a 2M aqueous sodium hydroxide solution to give 2-(1-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-1,2,3,4-tetrazol-5-ylmethylcarbamoyl)indole-1-acetic acid.

reactant | Ethyl 2-(1-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-1,2,3,4-tetrazol-5-ylmethylcarbamoyl)indole-1-acetate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2N=NN=C2CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)OCC)C=CC=C1 | C28H25ClN6O4S
reactant | sodium hydroxide | 2M | [OH-].[Na+]
product | 2-(1-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-1,2,3,4-tetrazol-5-ylmethylcarbamoyl)indole-1-acetic acid | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2N=NN=C2CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)O)C=CC=C1 | C26H21ClN6O4S
